US05302718
Ethyl 2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate
Tetrakis(triphenylphosphine)palladium (0.29 g, 0.25 mmol) and copper(I)iodide (0.095 g, 0.5 mmol) were, added to a solution of ethyl 5-ethynyl-2-hydroxybenzoate (10.5 g, 55 mmol) and 4-iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide (18.7 g, 50 mmol) in tetrahydrofuran (75 ml) and triethylamine (75 ml) at 55° C. After 2 h the solid product was collected with filtration and washed with hydrochloric acid (1M). The material was boiled in formic acid (300 ml) for 15 nun. and filtered. Water (200 ml) was added and the product crystallized upon cooling. Yield 17.3 g (79%).

reactant | ethyl 5-ethynyl-2-hydroxybenzoate | 55 mmol, 10.5 g | C(#C)C=1C=CC(=C(C(=O)OCC)C1)O | C11H10O3
reactant | 4-iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 50 mmol, 18.7 g | IC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C12H11IN2O2S
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 75 ml | C(C)N(CC)CC | C6H15N
catalyst | Tetrakis(triphenylphosphine)palladium | 0.25 mmol, 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I)iodide | 0.5 mmol, 0.095 g | [Cu]I
product | Ethyl 2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate | OC1=C(C(=O)OCC)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C23H20N2O5S
